Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ HIV on ART, HCV on harvoni, HTN, anemia, COPD, CAD s/p 
multiple stents and bilateral PAD presents with abd 
distension/pain for ___ year, worsening last 3 days. Shortness of 
breath at baseline for known COPD. Purulent stools with 
alternating diarrhea/constipation x 3 days. He had a hard BM 
yesterday. He reports his appetite has been decreased because of 
the pain although he does not have early satiety. He has been 
drinking an ensure daily.  

He reports he has had nausea and LUQ pain for a year and he 
recently saw GI several days ago who told him they would get 
follow up imaging and prescribed lidocaine gel for possible 
rectus sheath pain, patient reports this has had little effect 
on pain and he got tired of feeling this way. He states that 
after he was given morphine in the ED his pain totally resolved 
and he feels excellent now.  

 In the ED, initial vitals were: T 98.3 HR 75 BP 179/65 
___ RR 18 Sa 100%  
 Exam notable for LUQ/LLQ TTP, soft, distended  
 RRR, 2+ pulses ___, +JVD, 1+ pedal edema  
 FOB negative  
 Labs notable for  
 Na 125 BUN 103  
 K 5.2 HCO3 20 Cr2.0  
 UA Prot 100 Glu Neg Ket  
 Neg  
 Imaging notable for  
 ___  
 1. No acute intra-abdominal or intrapelvic process. At least 
moderate colonic  
 stool burden. No evidence of colitis.  
 2. Distended bladder.  
 3. Mild coronary artery calcification.  
 4. Small hiatus hernia.  
 CXR  
 1. No acute cardiopulmonary abnormality.  
 2. Unchanged moderate cardiomegaly.  
 Patient was given 4 mg Morphine, 1 L NS, Metoprolol Tartrate 5 
mg, amlodipine 10 mg, carvedilol 25 mg, diltiazem XR 120 mg  
 Decision was made to admit for hypertensive urgency.  
 
 On the floor, patient was laying comfortable in bed and 
watching T.V.  
 
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Shortness of breath at baseline for COPD. Denies 
chest pain or tightness, palpitations. Denies. No recent change 
in bowel or bladder habits. No dysuria. Denies arthralgias or 
myalgias.  
 
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
==========================
ADMISSION PHYSICAL
==========================

 VS: T98.2 PO BP___/86 HR76 RR20 SaO2100 RA  
 Gen: Thin male, Alert and oriented laying in bed NAD  
 HEENT: EOMI, PERRL though small, sclera anicteric, MMM, 
dentures in place, oropharynx clear  
 CV: RRR, normal S1 and S2  
 Pulm: Moderate crackles LLL, CTA right  
 Abd: Protuberent and moderately distended but soft, not TTP, 
BS+  
 GU: Deferred  
 Ext: WWP, 2+ DP no clubbing or edema  
 Skin: Intact  
 Neuro: CN2-12 grossly intact, sensation and strength appear WNL 
 
 Psych: Normal affect and cognition  

==========================
DISCHARGE PHYSICAL
==========================

 Vital Signs: 98.3 175/66 72 16 94%ra 
 Gen: Thin male, Alert and oriented laying in bed NAD  
 HEENT: EOMI, PERRL though small, sclera anicteric, MMM, 
dentures in place, oropharynx clear  
 CV: RRR, normal S1 and S2  
 Pulm: Moderate crackles LLL, CTA right  
 Abd: Protuberent but less distended and soft, not TTP, BS+  
 GU: Deferred  
 Ext: WWP, 2+ DP no clubbing or edema  
 Skin: Intact  
 Neuro: CN2-12 grossly intact, sensation and strength appear WNL 
 
 Psych: Normal affect and cognition  
 
 
Pertinent Results:
==========================
ADMISSION LABS
==========================

___ 11:39AM BLOOD WBC-5.4 RBC-2.66* Hgb-8.2* Hct-25.5* 
MCV-96 MCH-30.8 MCHC-32.2 RDW-12.8 RDWSD-44.4 Plt ___
___ 11:39AM BLOOD Glucose-103* UreaN-43* Creat-2.0* Na-125* 
K-5.7* Cl-91* HCO3-20* AnGap-20
___ 11:39AM BLOOD Albumin-3.4*
___ 12:00PM BLOOD Lactate-1.1 K-5.2*

___ 01:27AM BLOOD Osmolal-280
___ 12:03PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:03PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 04:21AM URINE Hours-RANDOM UreaN-407 Creat-67 Na-26 
K-30 Cl-<20
___ 04:21AM URINE Osmolal-262

==========================
DISCHARGE LABS
==========================

___ 07:00AM BLOOD WBC-5.3 RBC-2.66* Hgb-8.1* Hct-25.2* 
MCV-95 MCH-30.5 MCHC-32.1 RDW-13.2 RDWSD-45.0 Plt Ct-97*
___ 07:04AM BLOOD Glucose-104* UreaN-44* Creat-2.1* Na-130* 
K-4.4 Cl-99 HCO3-20* AnGap-15
___ 06:45AM BLOOD ALT-17 AST-26 LD(LDH)-167 AlkPhos-110 
TotBili-0.3
___ 07:04AM BLOOD Calcium-9.1 Phos-3.9 Mg-1.9

==========================
IMAGING 
==========================

___ ABD & PELVIS W/O CON

FINDINGS: 
 
LOWER CHEST: Visualized lung fields are within normal limits, 
likely with
minimal subsegmental atelectasis in the right lower lobe.  There 
is no
evidence of pleural or pericardial effusion.  Mild coronary 
artery
calcification is noted.  There is a small hiatus hernia.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout, with
a contour consistent with known cirrhosis.  There is no evidence 
of focal
lesions within the limitations of an unenhanced scan.  There is 
no evidence of
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within
normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions within the limitations of an unenhanced scan.  
There is no
pancreatic ductal dilatation.  There is no peripancreatic 
stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence
of focal renal lesions within the limitations of an unenhanced 
scan.  There is
no hydronephrosis.  There is no nephrolithiasis.  There is no 
perinephric
abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber and wall thickness throughout.  The colon and 
rectum are within
normal limits.  The appendix is normal.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 The bladder
is moderately distended.  There is no free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There
is no pelvic or inguinal lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  Moderate 
atherosclerotic
disease is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION:
 
 
1. No acute intra-abdominal or intrapelvic process.  At least 
moderate colonic
stool burden.  No evidence of colitis.
2. Distended bladder.
3. Mild coronary artery calcification.
4. Small hiatus hernia.
 

     
___ (PA & LAT)

FINDINGS: 
 
The cardiomediastinal silhouette is stable, consistent with at 
least moderate
cardiomegaly.  The thoracic aorta is tortuous, unchanged.  The 
hila are within
normal limits.  The lungs are clear without focal consolidation. 
 There is no
pulmonary vascular congestion or pulmonary edema.  There is no 
pneumothorax or
sizable pleural effusion.  Anterior cervical spine fusion 
hardware is
partially imaged.
 
IMPRESSION:
 
 
1. No acute cardiopulmonary abnormality.
2. Unchanged moderate cardiomegaly.

==========================
MICRO
==========================

___ O + P - negative 

___ C diff - negative 

___ Stool culture - negative salmonella, shigella, 
campylobacter, cryptosporidium, giardia

___ Urine culture - no growth 

 
Brief Hospital Course:
****TRANSITIONAL ISSUES****
#CODE: Full (confirmed) 
#CONTACT: ___ (HCP) Relationship: niece 
___
#Infectious stool studies negative including O + P, c diff 
toxin, giardia, cryptosporidium 
#Last ___ screening ultrasound was ___. 
#Aggressive bowel regimen started for constipation. 
#Please check repeat Chem 10 in ___ days following discharge to 
ensure improvement in sodium 

Mr. ___ is a ___ year old male with a complex medical 
history including coronary artery disease s/p stenting, Hep C 
cirrhosis now with SVR, chronic well controlled HIV, and chronic 
kidney disease who presented with acute on chronic abdominal 
pain found to have asymptomatic hyponatremia. 

#Abdominal pain: CT scan of the abdomen was unremarkable except 
for a significant stool burden.  We treated him with an 
agressive bowel regimen which took a couple days to induce a 
bowel movement. He required lactulose, which worked with good 
effect.  This was given to him at discharge  as a prn medication 
in addition to a scheduled bowel regimen consisting of Miralax, 
senna, and colace.  His exam was notable for a distended but 
benign abdomen that became softer as he started having bowel 
movements. 

#Hyponatremia: Likely related to decreased PO intake in the 
setting of abdominal discomfort. FeUrea sugested pre-renal 
state, consistent with a urine Osm of 262, Na 26 (on diuretic), 
Cl < 20.  He did not have any neurological symptoms suggesting 
acute hyponatremia and his sodium slow rose during the 
hospitalization. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Acetaminophen 650 mg PO TID 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
4. Amlodipine 10 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Carvedilol 25 mg PO BID 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Efavirenz 600 mg PO DAILY 
10. HydrALAZINE 75 mg PO Q6H 
11. ipratropium-albuterol ___ mcg/actuation INHALATION QID 
12. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
13. LaMIVudine 100 mg PO DAILY 
14. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN stomach 
pain 
15. Multivitamins 1 TAB PO DAILY 
16. Omeprazole 20 mg PO DAILY 
17. Ondansetron 4 mg PO Q8H:PRN nausea 
18. Oxybutynin 5 mg PO DAILY 
19. Polyethylene Glycol 17 g PO DAILY 
20. Pravastatin 20 mg PO QPM 
21. Senna 8.6 mg PO BID 
22. Simethicone 40-80 mg PO QID:PRN gas pains 
23. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
24. Torsemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Lactulose 30 mL PO Q8H:PRN constipation 
RX *lactulose 10 gram/15 mL (15 mL) 30 ml by mouth every 8 hours 
Refills:*0
RX *lactulose 10 gram/15 mL (15 mL) 30 ml by mouth every 8 hours 
Refills:*0 
2.  Lisinopril 10 mg PO DAILY  
3.  Abacavir Sulfate 300 mg PO BID  
4.  Acetaminophen 650 mg PO TID  
5.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
6.  Amlodipine 10 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Carvedilol 25 mg PO BID  
9.  Diltiazem Extended-Release 120 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
11.  Efavirenz 600 mg PO DAILY  
12.  HydrALAZINE 75 mg PO Q6H  
13.  ipratropium-albuterol ___ mcg/actuation INHALATION QID  
14.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
15.  LaMIVudine 100 mg PO DAILY  
16.  Multivitamins 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
18.  Omeprazole 20 mg PO DAILY  
19.  Ondansetron 4 mg PO Q8H:PRN nausea  
20.  Oxybutynin 5 mg PO DAILY  
21.  Polyethylene Glycol 17 g PO DAILY  
22.  Pravastatin 20 mg PO QPM  
23.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 
24.  Simethicone 40-80 mg PO QID:PRN gas pains  
25.  Torsemide 20 mg PO DAILY  
26.Outpatient Lab Work
Please check Chem 10 
ICD 10 E87.1 hyponatremia 
Fax result to: Attn: ___ ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: constipation

Secondary diagnosis: hyponatremia, portal hypertension, 
cirrhosis, HIV, chronic kidney disease, coronary artery disease, 
peripheral artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to the hospital because your abdominal pain was getting 
worse.

A CT scan of your belly did not show any emergent conditions, 
just some constipation.  We think this was causing most of your 
discomfort.  

We tested your stool, you do not have c diff.  There are some 
other infectious studies pending at the time of discharge.  
These can be followed up as an outpatient.  

Please continue to take the bowel regimen as prescribed, this 
can be adjusted by your gastroenterologist on ___ when 
you follow up as an outpatient. 

 
Followup Instructions:
___